* Z:\mnt\design.r\spice\examples\1790-1.25.asc
V1 IN 0 PWL(0 0 1 10)
C1 OUT 0 1µ
Rload OUT 0 1K
XU1 IN 0 OUT LT1790-125
.tran 1
.lib LT1790.lib
.backanno
.end
